US05478851
4-[2-(2.3-Dihydro-1H-isoindol-1-on-2-yl)ethoxy]benzyl alcohol
4-(2-Phthalimidoethoxy)benzaldehyde (6.8 g) was dissolved in glacial acetic acid (70 ml) at 60° C. Powdered zinc (9.1 g) was added, and the mixture heated at reflux and stirred vigorously for 18.25 hours before being filtered whilst hot, and allowed to cool to room temperature. The acetic acid was evaporated and the resulting gum dissolved in methanol (75 ml). Sodium hydroxide solution (10% w/v; 75 ml) was added, and the mixture stirred for 2 hours at room temperature, diluted with water (1 l), acidified to pH4 with hydrochloric acid, and then continuously extracted with dichloromethane for 3 hours. The dichloromethane layer was evaporated and the residue chromatographed on silica gel using 1.5% methanol in dichloromethane to afford the title compound, mp 106°-107° C.

reactant | 4-(2-Phthalimidoethoxy)benzaldehyde | 6.8 g | C1(C=2C(C(N1CCOC1=CC=C(C=O)C=C1)=O)=CC=CC2)=O | C17H13NO4
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 9.1 g | [Zn] | Zn
product | 4-[2-(2.3-Dihydro-1H-isoindol-1-on-2-yl)ethoxy]benzyl alcohol | C1(N(CC2=CC=CC=C12)CCOC1=CC=C(CO)C=C1)=O | C17H17NO3
